US03996276
A mixture of 5.00 g of 1,7-dimethyldiethylenetriamine and 6.22 g of hexamethylphosphorous triamide is heated to 80° C, at which temperature dimethylamine begins to be evolved. Evolution of dimethylamine continues for about one hour, during which time the temperature is gradually raised to 125° C. The mixture is distilled to give 5.75 g (95%) of 2,8-dimethyl-2,5,8-triaza-1-phosphabicyclo[3.3.0]octane as a clear, colorless liquid, which boils at 55°-65° C at 0.30 mm. The nuclear magnetic-resonance spectrum (C6D6 /TMS) of the product shows a highly split pattern from δ 2.0 to 4.5 and has the expected sharp doublet for the --CH3 groups at δ 2.55, J = 10 Hz. The infrared absorption spectrum (neat) has absorptions at 3.5, 6.83, 6.91, 7.65, 7.80, 8.20, 8.68, 9.20, 9.70, 10.15, 10.4, 10.7, and 11.5 μ.

reactant | 1,7-dimethyldiethylenetriamine | 5.00 g | CNCCNCCNC | C6H17N3
reactant | dimethylamine | CNC | C2H7N
reactant | hexamethylphosphorous triamide | 6.22 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 2,8-dimethyl-2,5,8-triaza-1-phosphabicyclo[3.3.0]octane | 5.75 g, 95% | CN1P2N(CCN2CC1)C | C6H14N3P
